US08957073B2
(1-methyl-1H-benzoimidazol-2-yl)-[3-(3-phenyl-pyrazin-2-yl)-azetidin-1-yl]-methanone
To a stirred solution of [3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-(1-methyl-1H-benzoimidazol-2-yl)-methanone (100 mg, 0.30 mmol) in dioxane (10 mL) was added phenylboronic acid (87 mg, 0.71 mmol), Na2CO3 (152 mg, 1.4 mmol) and H2O (2 mL). The reaction mixture was degassed with N2 and then PdCl2(dppf) (35 mg, 0.05 mmol) was added. The reaction mixture was stirred at 80° C. for 12 h. The reaction mixture was left to reach RT and filtered through a pad of CELITE® and the filter cake was washed with CH2Cl2 (20 mL×3). The combined filtrates were evaporated in vacuo and the residue was purified by column chromatography to give the desired compound (60 mg, 0.17 mmol, yield 70%)

reactant | [3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-(1-methyl-1H-benzoimidazol-2-yl)-methanone | 0.30 mmol, 100 mg | ClC=1C(=NC=CN1)C1CN(C1)C(=O)C1=NC2=C(N1C)C=CC=C2 | C16H14ClN5O
reactant | phenylboronic acid | 0.71 mmol, 87 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.4 mmol, 152 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.05 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (1-methyl-1H-benzoimidazol-2-yl)-[3-(3-phenyl-pyrazin-2-yl)-azetidin-1-yl]-methanone | 0.17 mmol, 60 mg, yield 70% | CN1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2C2=CC=CC=C2 | C22H19N5O
